US05834506
(5-tert-Butyl-4-mercapto-2-methyl-phenoxy)acetic acid methyl ester
1.00 g (3.4 mmol) of (5-tert-butyl-2-methyl-4-thiocyanato-phenoxy)acetic acid methyl ester prepared in Example KKK was combined with 3.16 g (20 mmol) dithiothreitol (DTT) in a solution of 10 mL 0.02M K2PO4 buffer and 40 mL of EtOH. The reaction was refluxed overnight, then cooled and partially concentrated. After dilution with water, the mixture was extracted with EtOAc, and the organic layer washed with saturated aqueous brine, dried (Na2SO4) and concentrated. The residue was chromatographed on silica gel eluting with 3:1 hexanes:EtOAc, to give the title compound. 1H NMR (CDCl3) δ 1.44 (s, 9 H), 2.19 (s, 3 H), 3.46 (s, 1 H), 3.80 (s, 3 H), 4.62 (s, 2 H), 6.76 (s, 1 H), 7.06 (s, 1 H).

reactant | (5-tert-butyl-2-methyl-4-thiocyanato-phenoxy)acetic acid methyl ester | 3.4 mmol, 1.00 g | COC(COC1=C(C=C(C(=C1)C(C)(C)C)SC#N)C)=O | C15H19NO3S
reactant | dithiothreitol | 20 mmol, 3.16 g | SC[C@@H](O)[C@H](O)CS | C4H10O2S2
solvent | EtOH | 40 mL | CCO | C2H6O
product | (5-tert-Butyl-4-mercapto-2-methyl-phenoxy)acetic acid methyl ester | COC(COC1=C(C=C(C(=C1)C(C)(C)C)S)C)=O | C14H20O3S
